* from https://www.diyaudio.com/forums/solid-state/252973-2sk170-2sj74-spice-model-pass-0-4ma.html
*2SJ74
*Toshiba Dep-Mode 20mA 400mW LowNoise pkg:TO-92B 2,1,3
.MODEL 2SJ74 PJF(Beta=92.12m Rs=7.748 Rd=7.748 Lambda=4.464m
+Vto=-.5428 Cgd=85.67p Pb=.3905 Fc=.5
+Cgs=78.27p Is=12.98p
+Kf=26.64E-18 Af=1)

*2SK170
* 20mA 400mW LowNoise Dep-Mode pkg:TO-92B 3,1,2
.MODEL 2SK170 NJF(Beta=59.86m Rs=4.151 Rd=4.151 Lambda=1.923m
+Vto=-.5024 Cgd=20p Pb=.4746 Fc=.5
+Cgs=25.48p Is=8.477p
+Kf=111.3E-18 Af=1)

.subckt RPOT 1 2 3
R1 1 2 {value*ratio + 1m}
R2 2 3 {value*(1-ratio)+ 1m}
* below are default parameters, which are required by some simulators
.param value=1k
.param ratio=1
.ends

.model IRFP240 VDMOS nchan
+ Vto=4 Kp=5.9 Lambda=.001 Theta=0.015 ksubthres=.27
+ Rd=61m Rs=18m Rg=3 Rds=1e7
+ Cgdmax=2.45n Cgdmin=10p a=0.3 Cgs=1.2n
+ Is=60p N=1.1 Rb=14m XTI=3
+ Cjo=1.5n Vj=0.8 m=0.5
+ tcvth=0.0065 MU=-1.27 texp0=1.5
+ Rthjc=0.4 Cthj=0.1
+ mtriode=0.8

.model IRFP9240 VDMOS pchan
+ Vto=-4 Kp=8.8 Lambda=.003 Theta=0.08 ksubthres=.35
+ Rd=180m Rs=50m Rg=3 Rds=1e7
+ Cgdmax=1.25n Cgdmin=50p a=0.23 Cgs=1.15n
+ Is=150p N=1.3 Rb=16m XTI=2
+ Cjo=1.3n Vj=0.8 m=0.5
+ tcvth=0.004 MU=-1.27 texp0=1.5
+ Rthjc=0.4 Cthj=0.1
+ mtriode=0.6

.model DMOD D

* Thermistor model
.subckt th n1 nt n2 
.param B=3977
.param R25=4700
*control node
Ctherm1 n1 0 100p
Ctherm2 n2 0 100p
Rtherm n1 n2 R = {R25*exp(B*(1/(v(nt)+273.15)-1/(25+273.15)))}
.ends

* generic relay model
.subckt genrelay out1 out2 in1 in2
.param ron = 10m
S1 out1 out2 in1 in2 SW
.MODEL SW VSWITCH(VON=4V VOFF=1V RON={ron} ROFF=100K)
.ends


